US07390908B2
Route 11: 3,5-di(2-cyanobenzyloxy)-N-{5-[(2-methoxyethyl)amino]pyridin-2-yl}benzamide
To a stirred solution of tert-butyl 6-({3,5-di(2-cyanobenzyloxy)benzoyl}amino)pyridin-3-yl(2-methoxyethyl)carbamate (237 mg) in dichloromethane (10 ml) was added trifluoroacetic acid (3 ml). The solution was stirred at ambient temperature for three hours. Volatile material was removed by evaporation. The residue was diluted in DCM (100 ml), washed with 2M sodium Hydroxide (50 ml), brine (50 ml), dried over MgSO4. Volatile material was removed by evaporation to give the title compound (190 mg) as a foam, 1H NMR δ (d6-DMSO): 3.22 (t, 2H), 3.28 (2, 3H), 3.50 (t, 2H), 5.31 (s, 4H), 6.92 (s, 1H), 7.12 (dd, 1H), 7.34 (s, 2H), 7.57 (m, 2H), 7.75 (m, 5H), 7.82 (d, 1H), 7.91 (d, 2H), 10.49 (br s, 1H). MS ES+534.41 (M+H)+.

reactant | tert-butyl 6-({3,5-di(2-cyanobenzyloxy)benzoyl}amino)pyridin-3-yl(2-methoxyethyl)carbamate | 237 mg | C(#N)C1=C(COC=2C=C(C(=O)NC3=CC=C(C=N3)N(C(OC(C)(C)C)=O)CCOC)C=C(C2)OCC2=C(C=CC=C2)C#N)C=CC=C1 | C36H35N5O6
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3,5-di(2-cyanobenzyloxy)-N-{5-[(2-methoxyethyl)amino]pyridin-2-yl}benzamide | 190 mg | C(#N)C1=C(COC=2C=C(C(=O)NC3=NC=C(C=C3)NCCOC)C=C(C2)OCC2=C(C=CC=C2)C#N)C=CC=C1 | C31H27N5O4
